US07678929B2
2.0 g (7.51 mmol) of 4,5-difluoro-2-methyl-7-pentyl-8,9-dihydro-7H-furo-[3,2-f]chromene are hydrogenated for 18 h at elevated temperature in THF using elemental hydrogen in the presence of Pd/C (5% Pd). The reaction soln. is concentrated to dryness, and the residue is purified by column chromatography (SiO2, n-heptane:MTBE=4:1). Further purification is carried out by recrystallisation from ethanol at 5° C., giving 4,5-difluoro-2-methyl-7-pentyl-1,7,8,9-tetrahydro-2H-furo[3,2-f]chromene as a colourless solid having an m.p. of 76° C. (Δ∈=−8.2).

reactant | 4,5-difluoro-2-methyl-7-pentyl-8,9-dihydro-7H-furo-[3,2-f]chromene | 7.51 mmol, 2.0 g | FC1=C2C(=C3CCC(OC3=C1F)CCCCC)C=C(O2)C | C17H20F2O2
solvent | THF | C1CCOC1 | C4H8O
catalyst | Pd/C | [Pd] | Pd
product | 4,5-difluoro-2-methyl-7-pentyl-1,7,8,9-tetrahydro-2H-furo[3,2-f]chromene | FC1=C2C(=C3CCC(OC3=C1F)CCCCC)CC(O2)C | C17H22F2O2
